US05998477
The reaction of Example 13(D) is repeated except that the starting materials are methyl 5-hydroxy-2-methyl-3-indenylacetate and 2,4,6-trimethoxybenzaldehyde. With the same reaction conditions and techniques, 5-hydroxy-2-methyl-1-(2,4,6-trimethoxybenzylidene)-3-indenyl-acetic acid is obtained. (R and R1 =H, R2 =OH, R3 and R4 =H, R5, R6 and R7 =OCH3, R8 =CH3, o=1, M=OH)

reactant | methyl 5-hydroxy-2-methyl-3-indenylacetate | OC=1C=C2C(=C(CC2=CC1)C)CC(=O)OC | C13H14O3
reactant | 2,4,6-trimethoxybenzaldehyde | COC1=C(C=O)C(=CC(=C1)OC)OC | C10H12O4
product | 5-hydroxy-2-methyl-1-(2,4,6-trimethoxybenzylidene)-3-indenyl-acetic acid | OC=1C=C2C(=C(C(C2=CC1)=CC1=C(C=C(C=C1OC)OC)OC)C)CC(=O)O | C22H22O6
